* For debugging unexpected source superposition issues.
********************************************
*V1 0 1 AC 5 1e6
********************************************
*V1 0 3 AC 5 1e6
*V2 3 1 AC 5e-6 1e5
********************************************
I1 0 1 AC 5 1e6
I2 0 1 AC 5e-6 1e5
R2 0 1 1
********************************************
L1 1 2 1e-7
R1 2 0 1000
C1 2 0 1e-7
.end
