* This can be used to verify that the source voltage addition is working properly.
********************************************
*V1 0 1 AC 5 1e6
********************************************
V1 3 0 AC 5 1e6
V2 1 3 AC 1 0.5e6
********************************************
L1 1 2 1e-7
R1 2 0 1000
C1 2 0 1e-7
.end
